US09023760B2
Alternative preparation of 4-Hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P2.2)
To a solution of 4-hydroxy-8-methoxy-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one [starting material (SM) prepared according to WO09/049851] (500 mg, 1.58 mmol) in tetrahydrofuran (20 ml) at 0° C. was added a 1.0 M lithium bis(trimethylsilyl)amide solution in hexanes (3.32 ml, 3.32 mmol) dropwise over 15 minutes. The mixture was stirred one hour at 0° C., treated with methyl iodide (0.099 ml, 225 mg, 1.59 mmol) dropwise over 10 minutes, and further stirred at 0° C. for 30 minutes and at room temperature for one hour. The reaction mixture was quenched over cold saturated aqueous ammonium chloride and extracted with tert-butyl methyl ether (3×), the combined organic phases washed with brine, dried over sodium sulfate and concentrated. The residue (210 mg) was suspended in hexane, stirred at room temperature for 10 minutes, filtered and dried. Yield: 171 mg of a clean mixture of starting material (SM) and 4-hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.2) as a beige solid. 1H-NMR and LC-MS analysis of the crude material indicated a ˜1:2.5 ratio of this mixture SM/compound P2.2.

reactant | 4-hydroxy-8-methoxy-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | 1.58 mmol, 500 mg | OC1=C(C(NC12CCN(CC2)OC)=O)C2=C(C=C(C=C2C)C)C | C18H24N2O3
reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 1.59 mmol, 0.099 ml, 225 mg | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Hydroxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C19H26N2O3
